US07384967B2
1-[2-Cyclopentanecarbonyl-4-(2-morpholin-4-yl-2-oxo-ethyl)-phenyl]-3-thiazol-2-yl-urea (151 mg, 68%) was prepared from [3-cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)-phenyl]-acetic acid (186 mg, 0.5 mmol) and morpholine (44 mg, 0.5 mmol) following the general procedure K.

reactant | [3-cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)-phenyl]-acetic acid | 0.5 mmol, 186 mg | C1(CCCC1)C(=O)C=1C=C(C=CC1NC(=O)NC=1SC=CN1)CC(=O)O | C18H19N3O4S
reactant | morpholine | 0.5 mmol, 44 mg | N1CCOCC1 | C4H9NO
product | 1-[2-Cyclopentanecarbonyl-4-(2-morpholin-4-yl-2-oxo-ethyl)-phenyl]-3-thiazol-2-yl-urea | 151 mg, 68% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)CC(=O)N1CCOCC1)NC(=O)NC=1SC=CN1 | C22H26N4O4S
